US06599472B1
Manganese neodecanoate was prepared by the following procedure: 8.45 g (0.05 moles) of MnSO4.H2O was dissolved in 50 g of water. 50 ml of toluene was added, and with vigorous stirring 77.6 g of a 25% solution of sodium neodecanoate (0.1 moles) was added in about 10 minutes. Rapid stirring was continued for 10 minutes after the addition was complete, stirring was discontinued, and the mixture was allowed to stand for 10 minutes to separate to a dark red organic phase and a clear colorless water phase. The organic phase weighed 87 g and contained 25% manganese neodecanoate, which after removing the solvent by evaporation was a dark red viscous liquid with viscosity>200,000 cps.

reactant | MnSO4.H2O | 0.05 moles, 8.45 g | [O-]S(=O)(=O)[O-].[Mn+2].O
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium neodecanoate | 0.1 moles | C(CCCCCC(C)(C)C)(=O)[O-].[Na+]
solvent | water | 50 g | O | H2O
product | Manganese neodecanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Mn+2].C(CCCCCC(C)(C)C)(=O)[O-] | InChI=1S/2C10H20O2.Mn/c2*1-10(2,3)8-6-4-5-7-9(11)12;/h2*4-8H2,1-3H3,(H,11,12);/q;;+2/p-2
